US06982278B2
4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]-3-propylphenol
A solution of 4-[2-(4-benzyloxy-2-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole. (1.2 g, 2.8 mmol) in THF (50 mL) was treated with 5% Pd/C (0.15 g) and hydrogen (60 psi) at ambient temperature for 18 h. The mixture was filtered and concentrated. The crude product was purified by radial chromatography using 15% ethyl acetate in hexanes to give a tan solid (0.74 g, 78%): 1H. NMR (400 MHz, CDCl3) δ 7.99 (dd, J=7.8 Hz, 2.4 Hz, 2H), 7.44-7.39 (m, 3H), 6.65-6.47 (m, 3H), 4.11 (t, J=6.4 Hz, 2H), 2.95 (t, J=6.4 Hz, 2H), 2.43 (t, J=7.8 Hz, 2H), 2.39 (s, 3H), 1.46 (q, J=7.2 Hz, 2H), 0.85 (t, J=7 Hz, 3H).

reactant | 4-[2-(4-benzyloxy-2-propylphenoxy)ethyl]-5-methyl-2-phenyloxazole | C(C1=CC=CC=C1)OC1=CC(=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)CCC | C28H29NO3
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]-3-propylphenol | 0.74 g, 78% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=C(C=C(C=C1)O)CCC | C21H23NO3
